US04301152
6-(5-Cholesten-3β-yloxy)hexyl 2,3,4-tri-O-acetyl-6-deoxy-6-phthalimido-1-thio-β-D-galactopyranoside
Triethylamine (0.8 ml.) is added to a solution of 2,3,4-tri-O-acetyl-6-deoxy-6-phthalimido-1-thio-β-D-galactopyranose (2.5 g.) and 6-(5-cholesten-3β-yloxy)hexyl iodide (3.3 g.) in dichloromethane (20 ml.). The solution is kept at room temperature under nitrogen overnight, and washed with water, dried, and evaporated in vacuo to a syrup (4.71 g.). This material is put on a column of silica gel and eluted with chloroform followed by 2% ethyl acetate in chloroform. The desired fractions are combined and evaporated in vacuo to give the title compound (4.0 g., 78%); Rf 0.2 (CHCl3 -EtOAc. 95:5), [α]D27 -93° C. (C 1.18, chloroform); n.m.r. (chloroform-d); δ 7.60-7.91 (4 aromatic), 1.93, 2.03, and 2.24 (3 OAc) 0.68 (CH3 -18).

reactant | Triethylamine | 0.8 ml | C(C)N(CC)CC | C6H15N
reactant | 2,3,4-tri-O-acetyl-6-deoxy-6-phthalimido-1-thio-β-D-galactopyranose | 2.5 g | C(C)(=O)O[C@H]1[C@H](S)O[C@@H]([C@@H]([C@@H]1OC(C)=O)OC(C)=O)CN1C(C=2C(C1=O)=CC=CC2)=O | C20H21NO9S
reactant | 6-(5-cholesten-3β-yloxy)hexyl iodide | 3.3 g | CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@H](CC[C@]4(C)[C@H]3CC[C@]12C)OCCCCCCI | C33H57IO
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 6-(5-Cholesten-3β-yloxy)hexyl 2,3,4-tri-O-acetyl-6-deoxy-6-phthalimido-1-thio-β-D-galactopyranoside | 4.0 g, 78% | C(C)(=O)O[C@H]1[C@H](SCCCCCCO[C@@H]2CC3=CC[C@H]4[C@@H]5CC[C@H]([C@@H](CCCC(C)C)C)[C@]5(CC[C@@H]4[C@]3(CC2)C)C)O[C@@H]([C@@H]([C@@H]1OC(C)=O)OC(C)=O)CN1C(C=2C(C1=O)=CC=CC2)=O | C53H77NO10S
